US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-((R)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A mixture of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (100 mg, 0.2 mmol), EDAC (80 mg, 0.41 mmol), HOBt (35 mg, 0.41 mmol), TEA (0.1 mL) and (R)-2-pyrrolidin-1-ylmethyl-pyrrolidine (0.5 mL) in DMF (4 mL) was stirred at rt for overnight. The reaction was diluted with water and sodium bicarbonate, extracted with ethyl acetate. The organic layer was concentrated and purified on a silica gel column to give the titled compound.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.2 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | EDAC | 0.41 mmol, 80 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.41 mmol, 35 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-2-pyrrolidin-1-ylmethyl-pyrrolidine | 0.5 mL | N1(CCCC1)C[C@@H]1NCCC1 | C9H18N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-((R)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)C(=O)N1[C@H](CCC1)CN1CCCC1)C | C32H34Cl2N4O4S
